US08975264B2
Step 1: Preparation of 7-(3-methylphenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 65)
3-Methylpyrazol-5-amine (431 mg) and methyl 3-methylphenyl-3-oxopropanoate (812 mg) are stirred overnight at 93° C. in a pyridine (10 mL) solvent. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield the target compound (673 mg).

reactant | 3-Methylpyrazol-5-amine | 431 mg | CC1=NNC(=C1)N | C4H7N3
reactant | methyl 3-methylphenyl-3-oxopropanoate | 812 mg | CC=1C=C(C=CC1)C(C(=O)OC)C=O | C11H12O3
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 7-(3-methylphenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 673 mg | CC=1C=C(C=CC1)C1=CC(NC=2N1N=C(C2)C)=O | C14H13N3O
